US06399629B1
(C) 1-(trans-4-Aminomethyl-L-Prolyl)-4-(3-Chloro-2-Methylphenyl)piperazine Dihydrochloride
A solution of 4 N hydrochloric acid in 1,4-dioxane (3 mL) was added to a solution of 1-[trans-4-(N-tert-butoxycarbonylaminomethyl)-N-tert-butoxycarbonyl-L-prolyl]-4-(3-chloro-2-methylphenyl)piperazine (B, 98 mg) in 1,4-dioxane (3 mL) at room temperature. After stirring at room temperature for 20 min, the reaction mixture was concentrated in vacuo. The residue was washed with ether to give the titled compound (61 mg) as a white powder: 1H NMR (400 MHz, ) δ 2.37 (s, 3H), 2.40-2.47 (br s, 2H), 2.83 (br s, 1H), 3.07 (br s, 4H), 3.32 (br s, 3H), 3.77 (m, 5H), 5.02 (br s, 1H), 7.09 (m, 1H), and 7.25 (m, 2H).

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | 1-[trans-4-(N-tert-butoxycarbonylaminomethyl)-N-tert-butoxycarbonyl-L-prolyl]-4-(3-chloro-2-methylphenyl)piperazine | 98 mg | C(C)(C)(C)OC(=O)NC[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)N1CCN(CC1)C1=C(C(=CC=C1)Cl)C | C27H41ClN4O5
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 1-(trans-4-Aminomethyl-L-Prolyl)-4-(3-Chloro-2-Methylphenyl)piperazine Dihydrochloride | 61 mg | Cl.Cl.NC[C@@H]1C[C@H](NC1)C(=O)N1CCN(CC1)C1=C(C(=CC=C1)Cl)C | InChI=1S/C17H25ClN4O.2ClH/c1-12-14(18)3-2-4-16(12)21-5-7-22(8-6-21)17(23)15-9-13(10-19)11-20-15;;/h2-4,13,15,20H,5-11,19H2,1H3;2*1H/t13-,15-;;/m0../s1
